US04148809
The process according to claim 1, said process comprising reacting 5-(1,1-dimethylheptyl)resorcinol with 1-methoxy-4-(1-hydroxy-1-methylethyl)-1,4-cyclohexadiene in the presence of stannic chloride in dichloromethane at a temperature ranging from about -10° C. to about 40° C. to provide dl-cis-1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-6,6a,7,8,10,10a-hexahydro-9H-dibenzo[b,d]pyran-9-one.

reactant | 5-(1,1-dimethylheptyl)resorcinol | CC(CCCCCC)(C)C=1C=C(C=C(O)C1)O | C15H24O2
reactant | 1-methoxy-4-(1-hydroxy-1-methylethyl)-1,4-cyclohexadiene | COC1=CCC(=CC1)C(C)(C)O | C10H16O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | cis-1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-6,6a,7,8,10,10a-hexahydro-9H-dibenzo[b,d]pyran-9-one | OC1=CC(=CC=2OC([C@H]3[C@@H](C21)CC(CC3)=O)(C)C)C(CCCCCC)(C)C | C24H36O3
